US07652015B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{6-[4-(2,2-dim ethyl-propionyl)piperazin-1-yl]-4-methyl-pyridin-3-yl}-urea
Add (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid, 2,2,2-trichloro-ethyl ester (Preparation 38, 0.32 mmol, 0.1 r) over a solution of 1-[4-(5-amino-4-methyl-pyridin-2-yl)-piperazin-1-yl]-2,2-dimethyl-propan-1-one (0.3 mmol, 0.08 g) and potassium carbonate (0.3 mmol, 0.05 g) in acetonitrile (3 mL), and stir the solution for 4 hours at 80° C. Add water and extract with CH2Cl2. Combine the organic layers and wash with saturated aq. sodium chloride. Dry over sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Subject residue to silica gel chromatography eluting with hexanes/ethyl acetate in gradient (from 20% to 80%). MS(ES+): m/z=532 [M+H].

reactant | (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid, 2,2,2-trichloro-ethyl ester | 0.32 mmol | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(OCC(Cl)(Cl)Cl)=O | C17H20Cl3N3O2
reactant | 1-[4-(5-amino-4-methyl-pyridin-2-yl)-piperazin-1-yl]-2,2-dimethyl-propan-1-one | 0.3 mmol, 0.08 g | NC=1C(=CC(=NC1)N1CCN(CC1)C(C(C)(C)C)=O)C | C15H24N4O
reactant | potassium carbonate | 0.3 mmol, 0.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{6-[4-(2,2-dim ethyl-propionyl)piperazin-1-yl]-4-methyl-pyridin-3-yl}-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=CC1C)N1CCN(CC1)C(C(C)(C)C)=O | C30H41N7O2
